US07745641B2
7-Amino-4-phenylisoindolinone (80.0 mg, 0.357 mmol) was dissolved in acetonitrile (4.8 mL), and the solution was added with potassium iodide (71.0 mg, 0.428 mmol), copper iodide (82.0 mg, 0.428 mmol), iodine (109 mg, 0.428 mmol) and tert-butyl nitrite (0.068 mL, 0.57 mmol), followed by stirring under ice-cooling for 1.5 hours. Then, the reaction mixture was warmed to room temperature and further added with tert-butyl nitrite (0.068 mL, 0.57 mmol), followed by stirring at 50° C. for 1.5 hours. The reaction mixture was added with 10% aqueous sodium thiosulfate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/acetonitrile=6/1) to obtain 7-iodo-4-phenylisoindolinone (72.6 mg, yield 61%).

reactant | 7-Amino-4-phenylisoindolinone | 0.357 mmol, 80.0 mg | NC=1C=CC(=C2CNC(C12)=O)C1=CC=CC=C1 | C14H12N2O
reactant | potassium iodide | 0.428 mmol, 71.0 mg | [I-].[K+]
reactant | iodine | 0.428 mmol, 109 mg | II | I2
reactant | tert-butyl nitrite | 0.57 mmol, 0.068 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | tert-butyl nitrite | 0.57 mmol, 0.068 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 4.8 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.428 mmol, 82.0 mg | [Cu](I)I
product | 7-iodo-4-phenylisoindolinone | 72.6 mg, yield 61% | IC=1C=CC(=C2CNC(C12)=O)C1=CC=CC=C1 | C14H10INO
